* source PRE-AMP-DISCRET
.EXTERNAL OUTPUT +15V
.EXTERNAL OUTPUT -15V
.EXTERNAL OUTPUT INPUT
.EXTERNAL OUTPUT OUTPUT
R_R1         -15V N14894  68 TC=0,0 
R_R2         -15V N14890  68 TC=0,0 
R_R3         0 N14847  10k TC=0,0 
C_C1         N14836 N14847  3.3u  TC=0,0 
V_V1         0 -15V 15Vdc
V_V2         +15V 0 15Vdc
R_R4         N14925 N14933  100 TC=0,0 
R_R5         N14921 N14933  100 TC=0,0 
R_R6         N15453 +15V  100 TC=0,0 
R_R7         0 N24191  10k TC=0,0 
Q_Q7         0 N14882 N15214 BC850C 
Q_Q8         N15258 N15214 N22849 BC850C 
R_R8         -15V N15214  2.2k TC=0,0 
Q_Q9         N15258 N24264 N15839 BC860C 
Q_Q11         -15V N15258 N15369 BC860C 
R_R9         0 N15626  10k TC=0,0 
C_C3         0 0  100u  TC=0,0 
R_R10         N15626 N15369  10k TC=0,0 
R_R11         N15835 +15V  100 TC=0,0 
R_R12         N15839 +15V  39 TC=0,0 
R_R13         -15V N22849  39 TC=0,0 
R_R15         N23087 +15V  68 TC=0,0 
R_R14         N23175 +15V  68 TC=0,0 
R_R16         N23551 N23449  100 TC=0,0 
R_R17         N23551 N23465  100 TC=0,0 
R_R18         -15V N24034  100 TC=0,0 
R_R19         N24000 0  10k TC=0,0 
Q_Q17         0 N23573 N24264 BC860C 
R_R20         N24264 +15V  2.2k TC=0,0 
R_R21         0 N33113  10k TC=0,0 
R_R22         N15369 INPUT  47 TC=0,0 
R_R23         0 INPUT  47k TC=0,0 
R_R24         N28352 +15V  1k TC=0,0 
Q_Q18         0 N23301 N28352 BC860C 
R_R25         N23573 N23301  47k TC=0,0 
R_R26         -15V N28630  1k TC=0,0 
Q_Q19         0 N14886 N28630 BC850C 
R_R27         N14882 N14886  47k TC=0,0 
X_U5         N23087 N28352 N23301 BCM857DS
X_U6         N23175 N28352 N23573 BCM857DS
X_U7         N15453 N24191 N14933 BCM857DS
X_U8         +15V N15453 N24191 BCM857DS
X_U9         +15V N15835 N33113 BCM857DS
X_U10         N15835 N33113 N15369 BCM857DS
X_U11         N24034 N24000 N23551 BCM847DS
X_U12         -15V N24034 N24000 BCM847DS
X_U13         N14890 N28630 N14886 BCM847DS
X_U14         N14894 N28630 N14882 BCM847DS
C_C8         N15258 N23573  {cvar}  TC=0,0 
C_C9         N15258 N14882  {cvar}  TC=0,0 
C_C10         N15369 N15626  {cfeedback}  TC=0,0 
X_U15         N45937 N46025 +15V -15V OUTPUT OPA188
R_R28         INPUT N45937  100k TC=0,0 
C_C11         N45937 0  1u  TC=0,0 
R_R29         0 N46025  100k TC=0,0 
C_C12         N46025 OUTPUT  1u  TC=0,0 
D_D1         N45937 +15V D1N4148_1 
D_D2         -15V N45937 D1N4148_1 
R_R31         OUTPUT 0  10k TC=0,0 
V_V3         N14836 0  AC 1V
+SIN 0V 1V 1k 0 0 0
Q_Q24         N14886 N15626 N14921 QPNP_THAT_NS 
Q_Q25         N14882 N14847 N14925 QPNP_THAT_NS 
Q_Q26         N23573 N14847 N23449 QNPN_THAT_NS 
Q_Q27         N23301 N15626 N23465 QNPN_THAT_NS 
.IC         V(OUTPUT )=0
.PARAM  cfeedback=0p cvar=270p
